US05244889
Cis ethyl 3-bromo-2-oxo-1-azacyclodecane-10-carboxylate (2.96 g, 9.67 mmol) is dissolved in dimethylformamide (30 mL). Silver acetate (6.35 g, 38 mmol) is added, and the reaction is heated to 100° C. for 3 hours. After cooling back to room temperature, the reaction is diluted with ethyl acetate (100 mL), filtered through a pad of silica gel, and the solvent is evaporated to give crude cis ethyl 3-acetoxy-2-oxo-1-azacyclodecane-10-carboxylate.

reactant | Cis ethyl 3-bromo-2-oxo-1-azacyclodecane-10-carboxylate | 9.67 mmol, 2.96 g | Br[C@@H]1C(N[C@@H](CCCCCC1)C(=O)OCC)=O | C12H20BrNO3
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | Silver acetate | 38 mmol, 6.35 g | C(C)(=O)[O-].[Ag+]
product | cis ethyl 3-acetoxy-2-oxo-1-azacyclodecane-10-carboxylate | C(C)(=O)O[C@@H]1C(N[C@@H](CCCCCC1)C(=O)OCC)=O | C14H23NO5
